US08071807B2
Step 6: [3-Chloro-5-(2-hydroxymethyl-4-nitro-phenoxy)-phenyl]-acetic acid methyl ester
To [3-chloro-5-(2-formyl-4-nitro-phenoxy)-phenyl]-acetic acid methyl ester (3.7 g, 10.6 mmol) in MeOH (30 mL) was added sodium borohydride (0.52 g, 13.8 mmol), and the reaction was stirred at room temperature for 20 minutes. After work-up with EtOAc and H2O, the crude material was purified by silica gel chromatography to give the title compound.

reactant | [3-chloro-5-(2-formyl-4-nitro-phenoxy)-phenyl]-acetic acid methyl ester | 10.6 mmol, 3.7 g | COC(CC1=CC(=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C=O)Cl)=O | C16H12ClNO6
reactant | sodium borohydride | 13.8 mmol, 0.52 g | [BH4-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
product | [3-Chloro-5-(2-hydroxymethyl-4-nitro-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])CO)Cl)=O | C16H14ClNO6
